US07037909B2
4-(5-Chloro-8-methyl-9H-1,2,3a,4,9,10-hexaaza-cyclopenta[b]fluoren-3-ylmethyl)-phenol
According to the general cyclization procedure (for Example 27), 0.60 mmol of 4-chloro-7-methyl-1H-indole-2,3-dione (117.5 mg) and 0.70 mmol of 4-(4,5-diamino-4H-[1,2,4]triazol-3-ylmethyl)-phenol (144 mg) was used for the preparation.

reactant | 4-chloro-7-methyl-1H-indole-2,3-dione | 0.60 mmol, 117.5 mg | ClC1=C2C(C(NC2=C(C=C1)C)=O)=O | C9H6ClNO2
reactant | 4-(4,5-diamino-4H-[1,2,4]triazol-3-ylmethyl)-phenol | 0.70 mmol, 144 mg | NN1C(=NN=C1N)CC1=CC=C(C=C1)O | C9H11N5O
product | 4-(5-Chloro-8-methyl-9H-1,2,3a,4,9,10-hexaaza-cyclopenta[b]fluoren-3-ylmethyl)-phenol | ClC1=C2C3=NN4C(N=C3NC2=C(C=C1)C)=NN=C4CC4=CC=C(C=C4)O | C18H13ClN6O
